US04645527
To a stirred mixture of 29 g of 2-chloro-N,N-dimethylbenzenesulfonamide and 150 mL ether at -5° C. to 0° C. was added dropwise under nitrogen 94 mL of a 1.55M solution of n-butyllithium in hexanes. When the addition was complete, the reaction mixture was allowed to warm to room temperature and was stirred for 2 hours. The reaction mixture was then recooled to -30° C. to -20° C., and treated with a solution of 22 mL of sulfuryl chloride in 60 mL hexanes, added at a rate that maintained the temperature below -10° C. The reaction mixture was then stirred at room temperature for one hour. The precipitated solids were collected, washed with ether and water, and dried to afford 26 g of 3-chloro-2-(N,N-dimethylsulfamoyl)benzenesulfonyl chloride as a yellow solid, which was used without further purification; IR (KBr): 1375, 1350, 1180 and 1160 cm-1.

reactant | 2-chloro-N,N-dimethylbenzenesulfonamide | 29 g | ClC1=C(C=CC=C1)S(=O)(=O)N(C)C | C8H10ClNO2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | sulfuryl chloride | 22 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | ether | 150 mL | CCOCC | C4H10O
product | 3-chloro-2-(N,N-dimethylsulfamoyl)benzenesulfonyl chloride | 26 g | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)S(N(C)C)(=O)=O | C8H9Cl2NO4S2
